US04217130
In this example, 14.3 g of methyl 2-pyrolidone-5-carboxylate and 10.1 g triethylamine are dissolved in 100 ml of ethyl acetate. Phenyl isocyanate (11.9 g) is added thereto, and the resulting solution is left standing at room temperature overnight. The reaction mixture is then filtered, and the filtrate is washed twice with 100 ml of 1N hydrochloric acid, and then three times with 100 ml water. Then, the filtrate is dried over anhydrous sodium sulfate, and then filtered. The filtrate is concentrated under reduced pressure, and the resulting viscous material is dissolved in 100 ml ether, admixed with 100 ml n-hexane, and recrystallized, whereby methyl 1-phenylcarbamoyl-2-pyrolidone-5-carboxylate (compound number 4; 17.5 g; mp 91°-92° C.) is obtained. Yield: 66.8%.

reactant | methyl 2-pyrolidone-5-carboxylate | 14.3 g | N1C(CCC1C(=O)OC)=O | C6H9NO3
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | Phenyl isocyanate | 11.9 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 1-phenylcarbamoyl-2-pyrolidone-5-carboxylate | 17.5 g, Yield: 66.8% | C1(=CC=CC=C1)NC(=O)N1C(CCC1C(=O)OC)=O | C13H14N2O4
